US06664291B2
4-(3-Isopropyl-4-methoxy-phenoxy)-3,5-dimethyl-nitrobenzene
The title compound of Step A (778 mg) was prepared from bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate (2.50 g, 4.88 mmol) and 2,6-dimethyl-4-nitrophenol (540 mg, 3.25 mmol) according to the procedure described in the J. Med. Chem., 38, 695-707 (1995).

reactant | bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | 4.88 mmol, 2.50 g | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
reactant | 2,6-dimethyl-4-nitrophenol | 3.25 mmol, 540 mg | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
product | 4-(3-Isopropyl-4-methoxy-phenoxy)-3,5-dimethyl-nitrobenzene | 778 mg | C(C)(C)C=1C=C(OC2=C(C=C(C=C2C)[N+](=O)[O-])C)C=CC1OC | C18H21NO4
